US04683234
5-Isopropyloxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3-(4-n-propyloxycarbonylphenyloxycarbonyl)-3,4-dihydropyrimidine
A solution of 250 mg (1.35 millimole) of n-propyl-p-hydroxybenzoate in 7 ml of THF was added to a solution of 0.12 ml (1.00 millimole) of trichloromethyl chloroformate in 2 ml of THF and then a solution of 0.25 ml (1.57 millimole) of N,N-diethylaniline in 6 ml of THF was added dropwise. The reaction mixture was stirred for 1.5 hrs at room temperature. Independently, 0.30 g (6.25 millimole) of sodium hydride washed with hexane was suspended in 5 ml of THF and a solution of 200 mg (0.63 millimole) of 5-isopropyloxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-dihydropyrimidine in 5 ml os THF was added dropwise and stirred for 40 minutes at room temperature. And to this mixture the above reaction mixture was added and stirred for 30 minutes. Ice water was added and the mixture was extracted three times with ether. The organic layer was washed twice with water, dried over magnesium sulfate (dehydrating agent) and concentrated under reduced pressure. The residue was purified on silica gel by column chromatography (silica gel 30 g, eluant:benzene/ethyl acetate 9:1) to obtain 117 mg (35% yield) of tilte compound.

reactant | n-propyl-p-hydroxybenzoate | 1.35 millimole, 250 mg | C(CC)OC(C1=CC=C(C=C1)O)=O | C10H12O3
reactant | trichloromethyl chloroformate | 1.00 millimole, 0.12 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | N,N-diethylaniline | 1.57 millimole, 0.25 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | sodium hydride | 6.25 millimole, 0.30 g | [H-].[Na+]
reactant | 5-isopropyloxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-dihydropyrimidine | 0.63 millimole, 200 mg | C(C)(C)OC(=O)C=1C(=NC(NC1C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C16H19N3O4
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-Isopropyloxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3-(4-n-propyloxycarbonylphenyloxycarbonyl)-3,4-dihydropyrimidine | 117 mg, 35% yield | C(C)(C)OC(=O)C=1C(N(C(=NC1C)C)C(=O)OC1=CC=C(C=C1)C(=O)OCCC)C1=C(C=CC=C1)[N+](=O)[O-] | C27H29N3O8
